data/specific_train_final.csv
"CC1=C(C=CC=C1)C(C)[O:20][O:21]N=O>>CC1=C(C=CC=C1)C(C)[O:20].N(=O)[O:21] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
"CC(=O)CC(C)(CO[O:20])O.[N:10]=O>>CC(=O)CC(C)(CO[O:20][N:10]=O)O 10-10,20;20-10,20",Room Temperature,Termination,recombine
"CC1(C2CC1C(C(C2)O)(C)O[O:20])C.[N+](=O)([O-])[O:10]>>CC1(C2CC1C(C(C2)O)(C)O[O:20][O:10][N+](=O)[O-])C 10-10,20;20-10,20",Room Temperature,Termination,recombine
"CCC(C)(C)CO[O:20].[N:10]=O>>CCC(C)(C)CO[O:20][N:10]=O 10-10,20;20-10,20",Room Temperature,Termination,recombine
"CCC(C1=CC=CC=C1)[O:20].[N+:10](=O)[O-]>>CCC(C1=CC=CC=C1)[O:20][N+:10](=O)[O-] 10-10,20;20-10,20",Room Temperature,Termination,recombine
"[H:10][C:9]([H:11])([CH:8]=[C:2]([CH3:1])[CH2:3][O:4][N+:5](=[O:7])[O-:6])[OH:12].[H:13][O:14]>>[H:10][C:9]([CH:8]=[C:2]([CH3:1])[CH2:3][O:4][N+:5](=[O:7])[O-:6])[OH:12].[H:13][O:14][H:11] 14-14,11; 9,11-9; 9,11-14,11",Room Temperature,Propagation,abstraction
"[H:15][O:14][CH:13][C:2]([CH3:1])([CH:3]([CH2:5][O:6][O:7][H:8])[OH:4])[O:9][N+:10](=[O:12])[O-:11].[O:16][O:17]>>[H:15][O:17][O:16].[H:8][O:7][O:6][CH2:5][CH:3]([C:2]([CH3:1])([CH:13]=[O:14])[O:9][N+:10](=[O:12])[O-:11])[OH:4] 17-15,17;15,14-14,13;13-13,14;15,14-15,17",Room Temperature,Termination,abstraction
"[H:4][C:3](=[O:5])[C:2]1([C:6]([O:8]1)([CH3:7])[CH:9]=[CH:10][CH:11]=[O:12])[CH3:1].[OH:13]>>[H:4][OH:13].[CH3:7][C:6]1([C:2]([O:8]1)([CH3:1])[C:3]=[O:5])[CH:9]=[CH:10][CH:11]=[O:12] 13-13,4; 3,4-13,4; 3,4-3",Room Temperature,Propagation,abstraction
"CCC1=C(C=C([CH:10]C1O[N+](=O)[O-])C)O.[O:20][O]>>CCC1=C(C=C([CH:10](C1O[N+](=O)[O-])[O:20][O])C)O 10-10,20;20-10,20",Room Temperature,Termination,recombine
"CC(OC(C)(C)C)O[O:20].[N+](=O)([O-])[O:10]>>CC(OC(C)(C)C)O[O:20][O:10][N+](=O)[O-] 10-10,20;20-10,20",Room Temperature,Termination,recombine
"CC(C(OC)O[O:20])O.[N+](=O)([O-])[O:10]>>CC(C(OC)O[O:20][O:10][N+](=O)[O-])O 10-10,20;20-10,20",Room Temperature,Termination,recombine
"CCCCC(C)O[O:20].[N:10]=O>>CCCCC(C)O[O:20][N:10]=O 10-10,20;20-10,20",Room Temperature,Termination,recombine
"CC1(CC2C1CCC(C(CCC2=C)O)(C)O[O:20])C.[N+](=O)([O-])[O:10]>>CC1(CC2C1CCC(C(CCC2=C)O)(C)O[O:20][O:10][N+](=O)[O-])C 10-10,20;20-10,20",Room Temperature,Termination,recombine
"[O:10].[O:20][Cl:21]>>[O:10][O:20].[Cl:21] 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"CC(C)(C)OCO[O:20].O[O:10]>>CC(C)(C)OCO[O:20][O:10]O 10-10,20;20-10,20",Room Temperature,Termination,recombine
"CC(C=O)(C([CH:21](O)[O:20][O])O)OO>>CC(C=O)(C([CH:21]O)O)OO.[O:20][O] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
"COC(=O)CO[O:20].[N+](=O)([O-])[O:10]>>COC(=O)CO[O:20][O:10][N+](=O)[O-] 10-10,20;20-10,20",Room Temperature,Termination,recombine
"CC(=CC(=O)O[O:20])CO[N+](=O)[O-].[N+:10](=O)[O-]>>CC(=CC(=O)O[O:20][N+:10](=O)[O-])CO[N+](=O)[O-] 10-10,20;20-10,20",Room Temperature,Termination,recombine
"[CH2:10]CO[N+](=O)[O-].[O:20][O]>>C([CH2:10][O:20][O])O[N+](=O)[O-] 10-10,20;20-10,20",Room Temperature,Termination,recombine
"[CH3:6][C:3]([CH2:4][OH:5])([CH:2]=[CH2:1])[O:7][O:8].[N:9]=[O:10]>>[CH3:6][C:3]([CH2:4][OH:5])([CH:2]=[CH2:1])[O:7][O:8][N:9]=[O:10] 9-9,8; 8-9,8",Room Temperature,Termination,recombine
"CC(C)(CO[O:20])O[N+](=O)[O-].[N+](=O)([O-])[O:10]>>CC(C)(CO[O:20][O:10][N+](=O)[O-])O[N+](=O)[O-] 10-10,20;20-10,20",Room Temperature,Termination,recombine
"CC(=O)OCC[O:20].[N+:10](=O)[O-]>>CC(=O)OCC[O:20][N+:10](=O)[O-] 10-10,20;20-10,20",Room Temperature,Termination,recombine
"CC([O:20][O:21]N=O)(Cl)Cl>>CC([O:20])(Cl)Cl.N(=O)[O:21] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
"[CH3:9][CH2:8][CH:7]([CH2:10][OH:11])[O:6][O:5][O:4][N+:2](=[O:1])[O-:3]>>[CH3:9][CH2:8][CH:7]([CH2:10][OH:11])[O:6][O:5][O:4].[N+:2](=[O:1])[O-:3] 4,2-4; 4,2-2",Room Temperature,Initiation,homolyze
"[CH2:3]([O:2][O:1])[Br:4].[N+:6](=[O:5])([O-:8])[O:7]>>[CH2:3]([O:2][O:1][O:7][N+:6](=[O:5])[O-:8])[Br:4] 1-1,7; 7-1,7",Room Temperature,Termination,recombine
"[H:14][O:15][O:16].[CH3:1][C:2]([CH2:12][OH:13])([CH:3]([CH2:8][OH:9])[O:4][N+:5](=[O:7])[O-:6])[O:10][O:11]>>[H:14][O:11][O:10][C:2]([CH3:1])([CH2:12][OH:13])[CH:3]([CH2:8][OH:9])[O:4][N+:5](=[O:7])[O-:6].[O:15][O:16] 14,15-15;14,15-11,14;11-11,14",Room Temperature,Propagation,abstraction
"CC1(C2CC1C(C(C2)[O:20])(C)O)C.[N+:10](=O)[O-]>>CC1(C2CC1C(C(C2)[O:20][N+:10](=O)[O-])(C)O)C 10-10,20;20-10,20",Room Temperature,Termination,recombine
"CC[CH:10]C(C)C.[O:20][O]>>CC[CH:10](C(C)C)[O:20][O] 10-10,20;20-10,20",Room Temperature,Termination,recombine
"[H:11][CH:10]([C:5]([CH3:13])([C:6]([H:7])[CH2:8][OH:9])[O:4][N+:2](=[O:1])[O-:3])[OH:12].[O:14][O:15]>>[H:11][CH:10]([C:5]([CH3:13])([C:6]([H:7])([CH2:8][OH:9])[O:14][O:15])[O:4][N+:2](=[O:1])[O-:3])[OH:12] 14-14,6; 6-14,6",Room Temperature,Termination,recombine
"CC(=O)C[O:21][OH:20].[O:10][O]>>CC(=O)C[O:21].[OH:20][O:10][O] 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"CCCCC(C)O[O:20].[N+](=O)([O-])[O:10]>>CCCCC(C)O[O:20][O:10][N+](=O)[O-] 10-10,20;20-10,20",Room Temperature,Termination,recombine
